US03975531
Ethyl 2-acetamido-3-benzoylphenylacetate.
A solution of 5 g. (0.017 mole) of ethyl α-(2-methyl-3-phenylindol-7-yl)acetate and 75 ml. of acetic acid was treated with ozone for 25 minutes. After ozonation, the acetic acid solution was diluted with water and extracted with ether. The ether extracts were washed with water, 5% sodium carbonate, dried (magnesium sulfate) and concentrated. Recrystallization from isopropanol gave 2.6 g. (47%) of product which melted at 133°-134°C.

reactant | ethyl α-(2-methyl-3-phenylindol-7-yl)acetate | 0.017 mole | CC=1NC2=C(C=CC=C2C1C1=CC=CC=C1)CC(=O)OCC | C19H19NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ozone | O=[O+][O-] | O3
reactant | water | O | H2O
product | Ethyl 2-acetamido-3-benzoylphenylacetate | C(C)(=O)NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)OCC | C19H19NO4
